US04966905
5-[2-(2,4-Difluorophenyl)ethenyl]-2,2-dimethyl-3(2H)-furanone
To a solution of dry diisopropylamine (3.3 mL, 24 mM) in dry tetrahydrofuran (25 mL) at -78° C., was added dropwise 2.3N solution of n-butyllithium in hexane (10.4 mL, 24 mM). After the reaction solution was stirred 15 minutes, a solution of 2,2,5-trimethyl-3(2H)-furanone (2.0 g, 16 mM) in tetrahydrofuran (10 mL) was added dropwise. Hexamethylphosphoramide (4.4 mL, 24 mM) was then added dropwise after 30 minutes. Finally, 2,4-difluorobenzaldehyde (3.5 mL, 31.8 mM) in tetrahydrofuran (10 mL) was added in one portion. The reaction solution was stirred 10 minutes when trifluoroacetic anhydride (11.87 g, 55.7 mM) was added in one portion. Again, the reaction solution was stirred 15, minutes when triethylamine (5.6 g, 55.7 mM) was added and was allowed to warm to room temperature. The reaction solution was partitioned between saturated aqueous sodium chloride (50 mL) and diethyl ether (50 mL). The layers were separated. The organic layers were then washed with saturated aqueous sodium chloride (2×25 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give an orange liquid. The crude product was purified by chromatography (silica gel, pet. ether-ethyl acetate) to afford a yellow crystalline solid (2.6 g, 65% yield), m.p. 98.5°-100° C.

reactant | diisopropylamine | 24 mM, 3.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,2,5-trimethyl-3(2H)-furanone | 16 mM, 2.0 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | 2,4-difluorobenzaldehyde | 31.8 mM, 3.5 mL | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | trifluoroacetic anhydride | 55.7 mM, 11.87 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | hexane | 24 mM, 10.4 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 55.7 mM, 5.6 g | C(C)N(CC)CC | C6H15N
solvent | Hexamethylphosphoramide | 24 mM, 4.4 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 5-[2-(2,4-Difluorophenyl)ethenyl]-2,2-dimethyl-3(2H)-furanone | 2.6 g, 65% yield | FC1=C(C=CC(=C1)F)C=CC1=CC(C(O1)(C)C)=O | C14H12F2O2
